US07790710B2
I1. (6-Bromo-3H-imidazo[4,5-b]pyridin-2-ylmethyl)-tributyl-phosphonium chloride
4.0 g of 6-bromo-2-chloromethyl-3H-imidazo[4,5-b]pyridine (compound J1) are suspended in 16 ml of N,N-dimethylformamide and 54 ml of acetonitrile. 4.9 ml of triphenylphosphine and 0.599 g of tetrabutylammonium iodide are added sequentially at 40° C. and the mixture is heated to 90° C. for 20 h. The mixture is concentrated to dryness to give the 8.94 g of the crude title compound as an oil, which is used as obtained. MS: 412.3, 414.2 (M+). TLC: Rf=0.40-0.55 (dichloromethane/methanol 10:1 parts by volume).

reactant | 6-bromo-2-chloromethyl-3H-imidazo[4,5-b]pyridine | 4.0 g | BrC=1C=C2C(=NC1)NC(=N2)CCl | C7H5BrClN3
reactant | triphenylphosphine | 4.9 ml | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | N,N-dimethylformamide | 16 ml | CN(C=O)C | C3H7NO
solvent | acetonitrile | 54 ml | C(C)#N | C2H3N
catalyst | tetrabutylammonium iodide | 0.599 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (6-Bromo-3H-imidazo[4,5-b]pyridin-2-ylmethyl)-tributyl-phosphonium chloride | 8.94 g | [Cl-].BrC=1C=C2C(=NC1)NC(=N2)C[P+](CCCC)(CCCC)CCCC | InChI=1S/C19H32BrN3P.ClH/c1-4-7-10-24(11-8-5-2,12-9-6-3)15-18-22-17-13-16(20)14-21-19(17)23-18;/h13-14H,4-12,15H2,1-3H3,(H,21,22,23);1H/q+1;/p-1
